US04999378
(1) Ethyl 2-(4-chlorophenylcarbamoyl)butyrate
Diethyl 2-ethylmalonate (8.76 ml) and p-chloroaniline (4 g) were dissolved by heating at 130° C. for 11 hours, and the mixture was cooled and dissolved in ethyl acetate, and further, the mixture was washed successively with 1N hydrochloric acid, aqueous sodium bicarbonate solution, and water, and concentrated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with chloroform to give the oily desired product (6.66 g).

reactant | Diethyl 2-ethylmalonate | 8.76 ml | C(C)C(C(=O)OCC)C(=O)OCC | C9H16O4
reactant | p-chloroaniline | 4 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-chlorophenylcarbamoyl)butyrate | 6.66 g | ClC1=CC=C(C=C1)NC(=O)C(C(=O)OCC)CC | C13H16ClNO3
